Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Brief HPI: This ___ who has a h/o depression, anxiety, and 
psoriatic arthritis, was watching television tonight and had 
sharp L sided chest pain. It was constant and she presented to 
___ where she was given ASA 325 and Plavix 600 mg. 
The pain subsided after 1.5 hours and she was transferred to 
___ ___. She was put on an heparin gtt. Her EKG revealed SR @ 
78, ___levations in 2, 3, and AVF. A bedside echo 
revealed mild RV dilatation with vigorous LV function and 
without focal WMA. 
 
Past Medical History:
PMH:  
 -Psoriatic arthritis  
 -Depression  
 -Anxiety  
 
 PSH: colonoscopy  
 
 
Social History:
___
Family History:
 FAMILY HISTORY: Father had ___ MIs and had the first one in his
___.
Brother had a CABG in his ___. 
 
Physical Exam:
Physical Exam:  
 Gen: WDWF in NAD 
 Neuro: A+Ox3, nonfocal 
 Neck/JVP: supple, FROM, no JVD 
 CV: RRR without R/G/M 
 Chest: Clear to A+P 
 ABD: + BS, soft, nontender without masses or hepatospenomegaly 
 Extr: without C/C/E, pulses 2+= throughout 
 Skin: C/D/I 

 
Pertinent Results:
___ 01:26AM BLOOD WBC-8.2 RBC-4.30 Hgb-12.8 Hct-39.3 MCV-91 
MCH-29.8 MCHC-32.6 RDW-12.9 RDWSD-42.9 Plt ___
___ 01:26AM BLOOD Neuts-36.8 ___ Monos-6.2 Eos-6.2 
Baso-0.5 Im ___ AbsNeut-3.02 AbsLymp-4.13* AbsMono-0.51 
AbsEos-0.51 AbsBaso-0.04
___ 03:47PM BLOOD PTT-28.0
___ 06:18AM BLOOD PTT-60.1*
___ 01:26AM BLOOD Plt ___
___ 01:26AM BLOOD ___ PTT-144.3* ___
___ 01:26AM BLOOD Glucose-99 UreaN-15 Creat-0.5 Na-141 
K-3.6 Cl-105 HCO3-23 AnGap-13
___ 01:26AM BLOOD ALT-9 AST-14 AlkPhos-59 TotBili-0.2
___ 06:18AM BLOOD cTropnT-<0.01
___ 01:26AM BLOOD cTropnT-<0.01
___ 06:18AM BLOOD Cholest-174
___ 01:26AM BLOOD Albumin-4.0
___ 06:18AM BLOOD Triglyc-107 HDL-64 CHOL/HD-2.7 LDLcalc-89
___ 01:26AM BLOOD CRP-1.6
___ 04:05AM URINE Color-Straw Appear-Clear Sp ___
___ 04:05AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD*
___ 04:05AM URINE RBC-1 WBC-1 Bacteri-FEW* Yeast-NONE Epi-1
___ 04:05AM URINE Mucous-RARE*

 Diagnostic testing:  
 
 TTE (Complete) Done ___  
 The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). The estimated cardiac 
index is normal (>=2.5L/min/m2). Doppler parameters are 
indeterminate for left ventricular diastolic function. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
Mild (1+) mitral regurgitation is seen. The estimated pulmonary 
artery systolic pressure is normal. There is a 
trivial/physiologic pericardial effusion.  
 IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. Mild mitral 
regurgitation.  
 Exercise Stress Study Date of ___  
 IMPRESSION: No anginal type symptoms or objective evidence of 
myocardial ischemia to achieved workload. Average functional 
capacity. Nuclear report sent separately.  
 CARDIAC PERFUSION Study Date of ___  
 IMPRESSION:  
 1. Normal myocardial perfusion.  
 2. Normal left ventricular cavity size and systolic function.  

 
Brief Hospital Course:
#Chest Pain: Pt. had 1.5 hours of sharp L sided chest pain which 
resolved after 325 mg ASA and 600 mg Plavix. Echo today shows 
normal biventricular cavity sizes with preserved global and 
regional biventricular systolic function. Mild mitral 
regurgitation. Nuclear exercise stress test normal myocardial 
perfusion. Normal left ventricular cavity size and systolic 
function.   
 - continue aspirin 81mg daily  
 - No indication for BB, statin  
 - re-establish outpatient cardiology care  

#Depression: continue Effexor  
 
#Psoriatic arthritis: continue gabapentin  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 150 mg PO DAILY 
2. Gabapentin 400 mg PO BID 
3. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
4. Naproxen 500 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY  
2.  Gabapentin 400 mg PO BID  
3.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
4.  Venlafaxine XR 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were transferred to ___ for further evaluation after you 
experienced chest discomfort. You underwent testing including 
echocardiogram and nuclear stress test which were reassuring 
that there is no cardiac damage or cardiac problem that caused 
your pain. 

You should continue to take 81mg aspirin daily given your family 
history of cardiac problems and your older age. You can buy this 
medicine at any drug store. Your outpatient doctors ___ further 
discuss aspirin risks and benefits, and can decide the duration 
of your aspirin therapy. 

You expressed interest in establishing regular cardiology care 
as an outpatient. We recommend the cardiology group at ___ 
___. Please call ___ to make a new 
cardiology patient appointment. 

  
 
Followup Instructions:
___